US05674868
A mixture of 4.15 g of 2-chloro-4-hydroxyquinazoline, 4.57 g of 4-amino-N-[1-(3-aminopropyl)-4-piperidinyl]-5-chloro-2,3-dihydro-2,2-dimethyl-7-benzofurancarboxamide (described in EP-0,445,862) and 0.80 g of calcium oxide was stirred for 1 hour at 140° C. The reaction mixture was dissolved in a mixture of dichloromethane and methanol. The whole was washed with water, dried, filtered and evaporated. The residue was purified twice by column chromatography (silica gel; CH2Cl2 /CH3OH(NH3) 90:10; CH2Cl2 /CH3OH(NH3) 88:12). The eluent of the desired fraction was evaporated and the residue was boiled in 2,2'-oxybispropane. The product was filtered off and dried, yielding 3.2 g (50.8%) of 4-amino-5-chloro-2,3-dihydro-N-[1-[3-[(4-hydroxy-2-quinazolinyl)amino]propyl]-4-piperidinyl]-2,2-dimethyl-7-benzofurancarboxamide; mp. 159.6° C. (comp. 12).

reactant | 2-chloro-4-hydroxyquinazoline | 4.15 g | ClC1=NC2=CC=CC=C2C(=N1)O | C8H5ClN2O
reactant | 4-amino-N-[1-(3-aminopropyl)-4-piperidinyl]-5-chloro-2,3-dihydro-2,2-dimethyl-7-benzofurancarboxamide | 4.57 g | NC1=C(C=C(C2=C1CC(O2)(C)C)C(=O)NC2CCN(CC2)CCCN)Cl | C19H29ClN4O2
reactant | calcium oxide | 0.80 g | [O-2].[Ca+2]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
product | 4-amino-5-chloro-2,3-dihydro-N-[1-[3-[(4-hydroxy-2-quinazolinyl)amino]propyl]-4-piperidinyl]-2,2-dimethyl-7-benzofurancarboxamide | 3.2 g, 50.8% | NC1=C(C=C(C2=C1CC(O2)(C)C)C(=O)NC2CCN(CC2)CCCNC2=NC1=CC=CC=C1C(=N2)O)Cl | C27H33ClN6O3
